US07423043B2
4-[3-(4-fluoro-phenoxy)-phenylcarbamoyl]-piperidine-1-carboxylic acid tert-butyl ester (15 g, 0.036 mol) was dissolved in 4 N HCl in dioxane (160 mL) and stirred overnight at room temperature. The volume of the reaction was reduced to remove most of the dioxane and the residue was filtered to afford piperidine-4-carboxylic acid [3-(4-fluoro-phenoxy)-phenyl]-amide hydrochloride (11.7 g, 96%) as a white solid.

reactant | 4-[3-(4-fluoro-phenoxy)-phenylcarbamoyl]-piperidine-1-carboxylic acid tert-butyl ester | 0.036 mol, 15 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(NC1=CC(=CC=C1)OC1=CC=C(C=C1)F)=O | C23H27FN2O4
reactant | HCl | 4 N | Cl | ClH
solvent | dioxane | 160 mL | O1CCOCC1 | C4H8O2
product | piperidine-4-carboxylic acid [3-(4-fluoro-phenoxy)-phenyl]-amide hydrochloride | 11.7 g, 96% | Cl.FC1=CC=C(OC=2C=C(C=CC2)NC(=O)C2CCNCC2)C=C1 | InChI=1S/C18H19FN2O2.ClH/c19-14-4-6-16(7-5-14)23-17-3-1-2-15(12-17)21-18(22)13-8-10-20-11-9-13;/h1-7,12-13,20H,8-11H2,(H,21,22);1H
